US07012075B2
A methanol solution (25 mL) of methyl N-(4-bromo-5-methylisoxazol-3-yl)leucinate (602 mg, 1.97 mmol) and 2 M LiOH (10 ml, 20 mmol) was stirred for 50 minutes at room temperature. Ice water and aq. 10% HCl was added and the product was extracted with ethyl acetate (3×), dried over Na2SO4 and concentrated in vacuo to afford N-(4-bromo-5-methylisoxazol-3-yl)leucine which was used as is in the next step.

reactant | methyl N-(4-bromo-5-methylisoxazol-3-yl)leucinate | 1.97 mmol, 602 mg | BrC=1C(=NOC1C)N[C@@H](CC(C)C)C(=O)OC | C11H17BrN2O3
reactant | LiOH | 20 mmol, 2 M, 10 ml | [Li+].[OH-]
reactant | HCl | Cl | ClH
solvent | methanol | 25 mL | CO | CH4O
product | N-(4-bromo-5-methylisoxazol-3-yl)leucine | BrC=1C(=NOC1C)N[C@@H](CC(C)C)C(=O)O | C10H15BrN2O3
